US07465795B2
4-amino-8-(2-methoxypyrimidin-5-yl)-N-propyl-cinnoline-3-carboxamide
Using method A, 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide (100 mg, 0.324 mmol) and (2-methoxypyrimidin-5-yl)boronic acid (104 mg, 0.68 mmol) were reacted to afford the title compound (84 mg, 77% yield) as a white solid. 1H NMR (300 MHz, DMSO-d6) δ 9.1-9.3 (m, 1.5H), 8.96 (s, 2H), 8.47 (dd, J=8.4, 1.0 Hz, 1H), 8.1-8.4 (bm, 0.5H), 7.99 (dd, J=7.2, 1.0 Hz, 1H), 7.83 (dd, J=8.4, 7.2 Hz, 1H), 4.01 (s, 3H), 3.32 (apparent q, J=7.4 Hz, 2H), 1.60 (apparent sextet, J=7.2 Hz, 2H), 0.91 (t, J=7.4 Hz, 3H). MS APCI, m/z=339 (M+H) HPLC 1.75 min.

reactant | 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide | 0.324 mmol, 100 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NCCC | C12H13BrN4O
reactant | (2-methoxypyrimidin-5-yl)boronic acid | 0.68 mmol, 104 mg | COC1=NC=C(C=N1)B(O)O | C5H7BN2O3
product | 4-amino-8-(2-methoxypyrimidin-5-yl)-N-propyl-cinnoline-3-carboxamide | 84 mg, 77% yield | NC1=C(N=NC2=C(C=CC=C12)C=1C=NC(=NC1)OC)C(=O)NCCC | C17H18N6O2
